US09260425B2
To (R)-tert-butyl 3-hydroxypiperidine-1-carboxylate (61.2 mg, 0.30 mmol) in anhydrous DMF (3 mL) was added sodium hydride (40.5 mg, 1.01 mmol, 60% in mineral oil), and the reaction mixture was stirred at 60° C. under N2 for 1 h. A solution of 3-(6-chloropyridin-2-yl)-5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine (40.0 mg, 0.10 mmol) in anhydrous DMF (˜1.0 mL) was then added, and the reaction mixture was stirred at 90° C. under N2 for 16 h. The reaction mixture was quenched with aqueous saturated NH4Cl solution and was extracted with ethyl acetate (3×). The combined organic layers were dried over Na2SO4, filtered, and evaporated in vacuo. The crude product was purified using flash chromatography (Si-PPC gradient elution, solvent: 0-60% MeOH/EA) to give (3R)-tert-butyl 3-(6-(5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yloxy)piperidine-1-carboxylate as a foam (15.8 mg, 27.9%). LC/MS: m/z 560.4 [M+1].

reactant | (R)-tert-butyl 3-hydroxypiperidine-1-carboxylate | 0.30 mmol, 61.2 mg | O[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | sodium hydride | 1.01 mmol, 40.5 mg | [H-].[Na+]
reactant | 3-(6-chloropyridin-2-yl)-5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 0.10 mmol, 40.0 mg | ClC1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NN(C2)C)C2OCCCC2 | C20H19ClN6O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | ˜1.0 mL | CN(C)C=O | C3H7NO
product | (3R)-tert-butyl 3-(6-(5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yloxy)piperidine-1-carboxylate | 15.8 mg, 27.9% | CN1N=CC(=C1)C=1C=C2C(=CN1)N(N=C2C2=CC=CC(=N2)O[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C2OCCCC2 | C30H37N7O4
